US08426540B2
Using 2-amino-4-tert-butylphenol and 5-(2-(trifluoromethyl)phenyl)furan-2-carbaldehyde, 4.25 g of 4-tert-butyl-2-{[5-(2-(trifluoromethyl)phenyl)furan-2-yl]methyleneamino}phenol were obtained as a yellow powder (yield 91%).

reactant | 2-amino-4-tert-butylphenol | NC1=C(C=CC(=C1)C(C)(C)C)O | C10H15NO
reactant | 5-(2-(trifluoromethyl)phenyl)furan-2-carbaldehyde | FC(C1=C(C=CC=C1)C1=CC=C(O1)C=O)(F)F | C12H7F3O2
product | 4-tert-butyl-2-{[5-(2-(trifluoromethyl)phenyl)furan-2-yl]methyleneamino}phenol | 4.25 g | C(C)(C)(C)C1=CC(=C(C=C1)O)N=CC=1OC(=CC1)C1=C(C=CC=C1)C(F)(F)F | C22H20F3NO2
